US06410550B1
A) 4,5-Dinitro-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-triene-10-carboxylic acid tert-butyl ester
4,5-Dinitro-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-triene, (1.9 g, 7.6 mmol) was stirred in 1,4-dioxane (75 mL) and treated with saturated aqueous Na2CO3 solution (10 mL). To this was added di-t-butyldicarbonate (3.31 g, 15.2 mmol). After stirring 6 hours the reaction was treated with H2O (50 mL) and extracted with EtOAc (4×25 mL), dried (Na2SO4), filtered, concentrated and chromatographed to provide product (1.9 g, 71%). (TLC 30% EtOAc/hexanes (NH3) Rf0.58). 1H NMR (400 MHz, CDCl3) δ7.77 (br s, 1H), 7.72 (br s, 1H), 4.08 (m, 1H), 3.92 (m, 1H), 3.39 (br s, 1H), 3.27 (br s, 1H), 3.25 (m, 1H), 3.18 (m, 1H), 2.46 (m, 1H), 2.02 (d, J=11.0 Hz, 1H).

reactant | 4,5-Dinitro-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-triene | 7.6 mmol, 1.9 g | [N+](=O)([O-])C1=CC=2C3CNCC(C2C=C1[N+](=O)[O-])C3 | C11H11N3O4
reactant | Na2CO3 | 10 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | di-t-butyldicarbonate | 15.2 mmol, 3.31 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | H2O | 50 mL | O | H2O
solvent | 1,4-dioxane | 75 mL | O1CCOCC1 | C4H8O2
product | 4,5-Dinitro-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-triene-10-carboxylic acid tert-butyl ester | 1.9 g, 71% | C(C)(C)(C)OC(=O)N1CC2C=3C=C(C(=CC3C(C1)C2)[N+](=O)[O-])[N+](=O)[O-] | C16H19N3O6
